US05827865
5-[2-[4-[2[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-1-ethoxy]ethyl-1,2,4-triazole
3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-ethoxypropanamide (0.562 g, 1.5 mmol) in dimethylformamide dimethyl acetal was heated to 120° C. for 11/2 h then cooled and concentrated. The residue was dissolved in acetic acid (4 ml) and hydrazine hydrate (1.1 eq) added. After 11/2 h at 100° C. the solution was cooled, diluted with ethyl acetate and washed with water (×2) and sodium bicarbonate solution. After the solution was dried and concentrated the residue was chromatographed (methanol/dichloromethane) to give the product as a white solid m.p.=127°-129° C.

reactant | 3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-ethoxypropanamide | 1.5 mmol, 0.562 g | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)N)OCC | C21H25N3O4
reactant | hydrazine hydrate | 1.1 eq | O.NN
reactant | dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[2-[4-[2[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-1-ethoxy]ethyl-1,2,4-triazole | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CCOCCC2=NC=NN2 | C22H25N5O3
